Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Mr ___ is pleasant ___ non-smoker
with PMHx HTN, CAD, DM presenting as transfer from OSH for
abnormal CT and hyper-K.  Pt has had cough productive of green
sputum x ___ year. He has also had 14lb weight loss x 6 months.  
He
had xray 3mo ago in ___ with R-sided consolidation for which
further imaging was advised.  Given ongoing, persistent sxs, he
went to ___ urgent care today for further eval, had CT chest
showing R lobe oval lesion.  Per report, K at urgent care was
initially 6.2. (not hemolized).  Whole blood improved to 5.0 
with
IVF.  EKG initially concerning for peaked T-waves.  Of note, he
didn't have nay new or worsening sxs in particular that prompted
evaluation today. He denies any F/C, CP or SOB. No back pain,
neck pain, arm pain.  Denies fevers, chills, or night sweats.

In the ED, initial vitals were: 98.2  51 124/108 18 98% RA.  
Labs
were notable for K of 6.2, improved to 4.8 prior to transfer,
creatinine 1.3.  Pt was given 1 L NS.

On the floor, he has no new complaints.  Generally feels well,
"like he could go back to work."  He tells me that he is in the
___ until ___ visiting his nephew.  No travel outside
___.  No fevers.  Denies contact with prison or
homeless population.  Walks ___ mi without difficulty.  Endorses
decreased urine output. 

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats. Denies headache, sinus
tenderness, rhinorrhea or congestion. Denies shortness of 
breath.
Denies chest pain or tightness, palpitations. Denies nausea,
vomiting, diarrhea, constipation or abdominal pain. No recent
change in bowel or bladder habits. No dysuria. Denies 
arthralgias
or myalgias. 10 pt ros otherwise negative.

 
Past Medical History:
CAD s/p 4V CABG
DM
HTN

 
Social History:
___
Family History:
No known

 
Physical Exam:
PHYSICAL EXAM:
Vitals:   97.7 ___
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No ___
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

Discharge exam:
Vitals: 97.5 PO 159/77 R Lying 59 18 97 RA 
Gen: NAD, speaking in full sentences. Appears younger than 
stated age
CV: RRR, no mrgs appreciated
Abd: soft, NTND, +BS
Pulm: LCTA, no w/r/r
___: Thin, WWP, pulses intact peripheraly
Neuro: ___ intact, strength and sensation intact in the b/l UE 
and ___
 
___ Results:
Admission labs:

___ 01:45PM BLOOD WBC-6.7 RBC-4.20* Hgb-12.0* Hct-36.2* 
MCV-86 MCH-28.6 MCHC-33.1 RDW-14.4 RDWSD-44.7 Plt ___
___ 01:45PM BLOOD Neuts-59.7 ___ Monos-9.1 Eos-1.6 
Baso-0.7 Im ___ AbsNeut-4.02 AbsLymp-1.93 AbsMono-0.61 
AbsEos-0.11 AbsBaso-0.05
___ 01:45PM BLOOD Plt ___
___ 01:45PM BLOOD Glucose-110* UreaN-30* Creat-1.3* Na-140 
K-6.2* Cl-105 HCO3-21* AnGap-14
___ 01:45PM BLOOD K-5.5*
___ 03:48PM BLOOD K-5.0
___ 01:45PM BLOOD ALT-24 AST-54* AlkPhos-94 TotBili-0.4
___ 08:39PM BLOOD Calcium-9.7 Phos-2.7 Mg-1.5*

MICRO: none

STUDIES:
CXR
Small right upper lung opacity, seen only on the frontal view,
accompanied by a small right pleural effusion, is likely a small
consolidation. Recommend four-week followup chest radiograph to
assure resolution and to exclude underlying nodule or mass. 

CT chest

1.Low-density oval lesion measuring 3.0 x 1.4 cm along the right
minor fissure, accompanied by adjacent calcifications and
fissural thickening, could represent a small loculated effusion
with adjacent scarring, possibly from prior infection. 
Malignancy
is much less favored, however, PET-CT is recommended to see if
this is region is metabolically active, given history of recent
unexplained weight loss. 
 
2. Calcified mediastinal lymph nodes, likely the sequela of 
prior
infection. 

3. 4.4 cm ascending thoracic aortic aneurysm. 

EKG: NSR

Discharge labs (same day)
___ 07:05AM BLOOD WBC-6.4 RBC-3.83* Hgb-10.9* Hct-33.2* 
MCV-87 MCH-28.5 MCHC-32.8 RDW-14.4 RDWSD-45.4 Plt ___
___ 07:05AM BLOOD Glucose-115* UreaN-23* Creat-1.1 Na-143 
K-4.5 Cl-110* HCO3-21* AnGap-12
___ 07:05AM BLOOD Calcium-9.5 Phos-2.8 Mg-1.6
 
Brief Hospital Course:
Pleasant ___ yo M with hx CAD, DM, presents with cough ___ yr, wt 
loss, found to have re-demonstration of lung lesion seen on 
prior CXR.

#Hyperk: Cause of his hyperkalemia is not entirely clear.  He
has a mildly elevated creatinine, which on review of his 
records,
is chronic and shouldn't cause hyperkalemia. Most obvious 
culprits based on med rec include pts ACE-I (ramipril) and his 
NSAID (posantan forte). Some concern for post obstructive ___, 
however his PVRs were within a safe range and ___ out of 
proportion.
He was given IVFs and the above meds were held and he improved.
Plan to d/c on a low K+ diet (handout provided), hold the two 
possible offending meds and repeat labs in 1 week (to be faxed 
to my attention in the ___ office)
In terms of alternate etiologies; no e/o tumor lysis (Ca and 
Phos are wnl) and this would be unlikely for a solitary lung 
tumor. Also considered adrenal insufficiency however this is 
less likely in setting of normal Na. No clear excess exogenous 
sources.

#Lung lesion: C/f loculated effusion vs post-infection vs 
malignancy.
Pt was aware of an CXR 3mo ago in ___ with R-sided 
consolidation for which
further imaging was advised; and we discussed that this is 
likely re-demonstration of the same, with possible interval 
worsening. 
Wt loss and cough certainly raise concern for malignancy however 
he does not have any clear risk factors for this, however we did 
discuss that this is a real possibility. Given chronicity of sxs 
and pt stable from a respiratory standpoint, further workup be 
deferred to the outpt setting.
I strongly advised patient to either establish a new PCP here or 
return to ___ for further evaluation as to avoid any further 
delays and pt states to me he anticipates arranging to return 
home within 2 weeks.

# Stage 1 CKD: mildly elevated creatinine, also mildly elevated
on last labs in ___.  ___ in part be post-obstructive as pt 
reports poor urine stream vs NSAID overuse. Improved from 
1.3-->1.1 with IVFs. PVRs were all within normal limits.

#Anemia: mild, without e/o active bleed, will monitor for now

#DM: ISS while in house

#Ascending Thoracic AA: does not meet criteria for repair. Outpt 
management.

Transitional Issues:
[ ] Repeat BMP in 1 week or less (given lab slip, I will 
personally follow as pt unable to have PCP ___ here at ___ d/t 
insurance issues); precautions to avoid hyperK in the interim as 
above
[ ] Outpatient ___ for lung lesion; pt states he will return to 
___ for this ___
[ ] Outpatient ___ of 4.4 cm ascending thoracic aortic aneurysm 
seen on CT
[ ] Cardiology ___ to consider alt to standard GDMT (ACEi)if 
hyperK+ persists

>30 minutes were spent in discharge planning and coordination of 
care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. bisoprolol fumarate 1.25 mg oral DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Ramipril 5 mg PO DAILY 
4. Nexium 40 mg Other DAILY 
5. Aspirin 75 mg PO DAILY 
6. Ponstan Forte (NSAID)

 
Discharge Medications:
1.  Aspirin 75 mg PO DAILY  
2.  bisoprolol fumarate 1.25 mg oral DAILY  
3.  MetFORMIN (Glucophage) 1000 mg PO BID  
4.  Nexium 40 mg Other DAILY
  
5.Outpatient Lab Work -Basic metabolic panel

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
High potassium
Lung lesion

 
Discharge Condition:
Stable

 
Discharge Instructions:
You came to the hospital for evaluation of high potassium and 
abnormal CT findings.
We gave you some fluids through the vein and held some of your 
home medications and your potassium improved.
It is very important that you do not take your ramipril 
(ramolol) and Ponstan Forte for now. 
Please take the provided lab slip to the outpatient clinic for a 
lab draw in 1 week.
___., ___ floor
 ___
Phone: ___
Hours
___ - ___, 8 am - 6 pm
please contact lab for holiday hours
The results should be faxed to ___ Attention ___ 
___, MD ___
 I will call you with the results and any additional required 
action. If they are unable to take you labs you will have to 
present to an Urgent Care clinic for follow up labs including a 
repeat potassium level. Please adhere to a low potassium diet as 
well (handout provided).
Please make sure to stay hydrated. Take Tylenol as needed for 
pain instead of the Ponstan Forte.

A Ct scan of your chest also showed a right sided lesion (likely 
the same that which was seen in ___ that should be followed 
up with outpatient doctors ___ ___ weeks.
While I am happy to monitor your potassium for the next week but 
this lung lesion should be followed up with doctors who know ___ 
and ___ evaluate for additional workup. This is probably best 
done back in ___. 

It was a pleasure taking care of you!

 
Followup Instructions:
___